US06066742
150.7 mg (0.32 mmole) of methyl (1S)-5-benzyloxy-3-t-butoxycarbonyl-1-chloromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-7-carboxylate and 90 mg of 10% palladium carbon were suspended in 4 ml of tetrahydrofuran, and 1 ml of 25% ammonium formate aqueous solution was added dropwise under ice-cold condition, followed by stirring for 1 hour. The resulting reaction mixture was extracted with ethyl acetate, the obtained organic layer was dried over anhydrous sodium sulfate, and filtrated, followed by concentration to give a residue. The residue was then purified by silica gel column chromatography using an eluate of hexane:ethyl acetate (1:1), followed by crystallization with hexane to give 115.9 mg of methyl (1S)-3-t-butoxycarbonyl-1-chloromethyl-5-hydroxy-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-7-carboxylate. Yield, 95%. NMR (CDCl3) δ: 1.58 (9H, s), 3.54 (1H, t, J=9.8 Hz), 3.87-3.94 (2H, m), 3.96 (3H, s), 4.06 (1H, m), 4.17 (1H, dd, J=9.3, 11.7 Hz), 6.36 (1H, brs), 7.08 (1H, s), 7.64 (1H, brs), 9.23 (1H, brs). [α]D25 =-42.6° (c 0.21, methanol).

reactant | methyl (1S)-5-benzyloxy-3-t-butoxycarbonyl-1-chloromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-7-carboxylate | 0.32 mmole, 150.7 mg | C(C1=CC=CC=C1)OC=1C=C2C(=C3C=C(NC13)C(=O)OC)[C@@H](CN2C(=O)OC(C)(C)C)CCl | C25H27ClN2O5
reactant | ammonium formate | 1 ml | C(=O)[O-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 90 mg | [C].[Pd]
product | methyl (1S)-3-t-butoxycarbonyl-1-chloromethyl-5-hydroxy-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-7-carboxylate | 115.9 mg | C(C)(C)(C)OC(=O)N1C[C@H](C2=C3C=C(NC3=C(C=C21)O)C(=O)OC)CCl | C18H21ClN2O5
